US08071584B2
3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-[5-(3-hydroxypropyl)-3-thienyl]-1H-indole-7-carboxamide
In a 5 mL microwave vial was added 3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide (55 mg, 0.131 mmol), PdCl2(dppf)-CH2Cl2 adduct (17.18 mg, 0.021 mmol), and K2CO3 (83 mg, 0.601 mmol). Then 3-(4-bromo-2-thienyl)-1-propanol (37.8 mg, 0.171 mmol) in 1,4-dioxane (3 mL) was added to give an orange solution. Water (1.5 mL) was added and the solution was heated to 100° C. at high power in the microwave for 5 min, cooled. The reaction was filtered through a thiol paladium extraction column. The column was washed with CH2Cl2 and the combined filtrates were concentrated and purified on a Gilson HPLC (NH4OH buffer), giving 23 mg (41%) of the title compound.

reactant | 3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide | 0.131 mmol, 55 mg | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)B1OC(C(O1)(C)C)(C)C)C(=O)N)=O | C20H27BN2O5S
reactant | K2CO3 | 0.601 mmol, 83 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(4-bromo-2-thienyl)-1-propanol | 0.171 mmol, 37.8 mg | BrC=1C=C(SC1)CCCO | C7H9BrOS
reactant | Water | 1.5 mL | O | H2O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.021 mmol, 17.18 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-[5-(3-hydroxypropyl)-3-thienyl]-1H-indole-7-carboxamide | 23 mg, 41% | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CSC(=C1)CCCO)C(=O)N)=O | C21H24N2O4S2
